US06797718B2
N-{2-[2-(4-Amino-2,6,7-trimethyl-imidazo[4,5-c]pyridin-1-yl)-ethoxy]-ethyl}-C-(7,7-dimethyl-2-oxo-bicyclo[2.2.1]hept-1-yl)methanesulfonamide
Using the method of Examples 34-50, D-(+)-10-camphorsulfonyl chloride was reacted with 1-[2-(2-aminoethoxy)ethyl]-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The product was purified using Method A. The observed accurate mass was 478.2455.

reactant | D-(+)-10-camphorsulfonyl chloride | CC1([C@@H]2CC[C@]1(C(=O)C2)CS(=O)(=O)Cl)C | C10H15ClO3S
reactant | 1-[2-(2-aminoethoxy)ethyl]-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCOCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C13H21N5O
product | N-{2-[2-(4-Amino-2,6,7-trimethyl-imidazo[4,5-c]pyridin-1-yl)-ethoxy]-ethyl}-C-(7,7-dimethyl-2-oxo-bicyclo[2.2.1]hept-1-yl)methanesulfonamide | NC1=NC(=C(C2=C1N=C(N2CCOCCNS(=O)(=O)CC21C(CC(CC2)C1(C)C)=O)C)C)C | C23H35N5O4S
